US09334366B2
21.0 g (130 mmol) of 5-bromopentanenitrile, 15.2 g (100 mmol) of methyl 4-hydroxybenzoate and 28 g (200 mmol) of potassium carbonate are dissolved in 100 mL of DMF. The mixture is heated to 80° C. overnight. 100 mL (100 mmol) of a 1N NaOH solution is added to the above mixture. The suspension is heated at reflux for 30 min until the reaction is completed. The reaction mixture is allowed to cool down to room temperature and thrown onto cold water. The solution is carefully acidified with a 25% HCl solution and is stirred for 15 min. The product is filtrated off, washed with water and dried overnight under vacuum to give 19.3 g of 4-(4-cyanobutoxy)benzoic acid as a white solid.

reactant | 5-bromopentanenitrile | 130 mmol, 21.0 g | BrCCCCC#N | C5H8BrN
reactant | methyl 4-hydroxybenzoate | 100 mmol, 15.2 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 200 mmol, 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-cyanobutoxy)benzoic acid | 19.3 g | C(#N)CCCCOC1=CC=C(C(=O)O)C=C1 | C12H13NO3
